US07276531B2
methyl (2Z)-3-[(diethoxyphosphoryl)oxy]hept-2-enoate
To NaH (60% in mineral oil, 2.8 g, 70 mmol) suspension in ether at 0° C. was added methyl 3-oxoheptanoate (10 g, 63 mmol) in anhydrous ether (50 mL) dropwise under Ar. The reaction mixture was stirred for 30 minutes. Diethyl chlorophosphate (9.6 mL, 67 mmol) was added dropwise under Ar at 0° C. The reaction mixture was stirred overnight allowing warm to room temperature. Saturated aqueous NH4Cl (22 mL) was added to quench the reaction. The mixture was then acidified with 1.0 N HCl. After separation, organic phase was washed with saturated aqueous NaHCO3, brine, dried (Na2SO4), filtered, concentrated. After column purification (silica gel, 1:1 EtOAc/Hexanes), the product was obtained as a colorless oil (17 g, 91%). 1HNMR (CDCl3) δ 0.89˜0.93 (m, 3H), 1.30˜1.45 (m, 3M), 1.50˜1.60 (m, 2H), 2.42 (m, 2H), 3.68 (s, 3H), 4.20˜4.35 (m, 4H), 5.35 (s, 1H).

reactant | NaH | 70 mmol, 2.8 g | [H-].[Na+]
reactant | methyl 3-oxoheptanoate | 63 mmol, 10 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | Diethyl chlorophosphate | 67 mmol, 9.6 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | NH4Cl | 22 mL | [NH4+].[Cl-]
reactant | HCl | 1.0 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | methyl (2Z)-3-[(diethoxyphosphoryl)oxy]hept-2-enoate | 17 g, 91% | C(C)OP(=O)(OCC)O\C(=C/C(=O)OC)\CCCC | C12H23O6P
